US05068325
11h) 2-Amino-6-(3-4-chlorophenyl)propyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(4-chlorophenyl)propyl bromide and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in anhydrous dimethylformamide. Yield: 37% of theory, Melting point: 153° C.

reactant | 3-(4-chlorophenyl)propyl bromide | ClC1=CC=C(C=C1)CCCBr | C9H10BrCl
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-6-(3-4-chlorophenyl)propyl-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 37% | NC=1SC=2CCN(CCC2N1)CCCC1=CC=C(C=C1)Cl | C16H20ClN3S
